US09403805B2
Hydroxy-naphthalene-2-carboxylic acid [(3S,5S)-1-cyclohexylmethyl-5-(pyrrolidine-1-carbonyl)-pyrrolidin-3-yl]-amide was prepared from (2S,4S)-1-cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid methyl ester and pyrrolidine in an analogous manner to example 12. MS calcd. for C27H36N3O3 [(M+H)+] 450.0, obsd. 450.2.

reactant | (2S,4S)-1-cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)[C@H]1N(C[C@H](C1)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)CC1CCCCC1 | C24H30N2O4
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | Hydroxy-naphthalene-2-carboxylic acid [(3S,5S)-1-cyclohexylmethyl-5-(pyrrolidine-1-carbonyl)-pyrrolidin-3-yl]-amide | C1(CCCCC1)CN1C[C@H](C[C@H]1C(=O)N1CCCC1)NC(=O)C1=C(C2=CC=CC=C2C=C1)O | C27H35N3O3
